US06090825
5-(4-Fluorophenyl)-2-Methylsulfanyl-Oxazole-4-Carboxylic Acid Methyl Ester
A suspension of potassium tert-butoxide (1.18 g; 10.52 mmol) in dry tetrahydrofuran (20 ml), cooled at -78 C., under argon, is treated with a solution of N-[bis(methylthio)methylene] glycine methyl ester (1.02 g; 5.26 mmol) in dry tetrahydrofuran (7 ml). After stirring for 45 minutes, it is added a solution of 4-fluorobenzoyl chloride (0.75 g; 6.31 mmol) in tetrahydrofuran (7 ml). After stirring at -78 C. for 20 minutes, it is brought to room temperature and stirred an additional 16 hours. The reaction mixture is diluted with water (30 ml) and extracted with ethyl acetate (70 ml). The aqueous phase is washed with ethyl acetate (20 ml). The combined organic phases are washed with saturated brine (20 ml), dried over sodium sulfate and concentrated to dryness. Purification by radial chromatography on silica gel using an ethyl acetate/hexane gradient (10%-70%) affords the product as a white solid (0.23 g; 16%). HNMR (CDCl3): 8.07 (m, 2H), 7.16 (t, 2H, J=8.9 Hz), 3.93 (s, 3H), 2.73 (s, 3H). Mass spectrum: m/e calculated (MH+)=268.3; observed (MH+)=268.1.

reactant | potassium tert-butoxide | 10.52 mmol, 1.18 g | CC(C)([O-])C.[K+]
reactant | N-[bis(methylthio)methylene] glycine methyl ester | 5.26 mmol, 1.02 g | COC(CN=C(SC)SC)=O | C6H11NO2S2
reactant | 4-fluorobenzoyl chloride | 6.31 mmol, 0.75 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 5-(4-Fluorophenyl)-2-Methylsulfanyl-Oxazole-4-Carboxylic Acid Methyl Ester | 0.23 g, 16% | COC(=O)C=1N=C(OC1C1=CC=C(C=C1)F)SC | C12H10FNO3S
